US04314061
3,6-bis(2-diethylaminoethoxy)-4,5-dichloroacridine
A 2.148 g. portion of 3,6-bis(2-diethylaminoethoxy)acridine trihydrochloride monohydrate is dissolved in 8 ml. of concentrated sulfuric acid. This solution is cooled in an ice bath and 1.175 g. of N-chlorosuccinimide are added. The procedure of Example 3 is followed giving 1.5 g. of a reddish brown crude product. This product is dissolved in 100 ml. of dichloromethane and filtered through a 2 inch×21/2 inch bed of alumina. The filter bed is washed with one liter of dichloromethane, then one liter of ethyl acetate. The filtrates are combined, concentrated in vacuo and the residue is crystallized from 10 ml. of hexane giving 1.067 g. of the desired product as yellow crystals, m.p. 83°-84° C.

reactant | 3,6-bis(2-diethylaminoethoxy)acridine trihydrochloride monohydrate | O.Cl.Cl.Cl.C(C)N(CCOC=1C=CC2=CC3=CC=C(C=C3N=C2C1)OCCN(CC)CC)CC
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | N-chlorosuccinimide | ClN1C(CCC1=O)=O | C4H4ClNO2
product | 3,6-bis(2-diethylaminoethoxy)-4,5-dichloroacridine | C(C)N(CCOC=1C=CC2=CC3=CC=C(C(=C3N=C2C1Cl)Cl)OCCN(CC)CC)CC | C25H33Cl2N3O2
